US08202885B2
100 mg of rac-(1R*,2R*,4R*)-(2-hydroxy-5-thiophen-2-yl-bicyclo[2.2.2]oct-5-en-2-yl)-acetic acid were dissolved in THF (0.15 mL)/DCM (0.6 mL). 0.194 mL of DIPEA, 77 mg of HOBt and 109 mg of EDC were added sequentially at rt. The reaction mixture was stirred for 10 min then 86 mg of [3-(1H-benzoimidazol-2-yl)-propyl]-methyl-amine were added at rt. The reaction mixture was stirred on at rt then diluted with DCM and washed with sat.-NaHCO3 and brine. The organic phase was dried over anh. Na2SO4, filtered and concentrated in vacuo. The resulting crude material was purified by CC using EtOAc/MeOH/NEt3 as eluant from 98/2/1 to 70/30/1 to yield 82 mg of rac-(1R*,2R*,4R*)-N-[3-(1H-benzoimidazol-2-yl)-propyl]-2-(2-hydroxy-5-thiophen-2-yl-bicyclo[2.2.2]oct-5-en-2-yl)-N-methyl-acetamide as a colorless oil.

reactant | rac-(1R*,2R*,4R*)-(2-hydroxy-5-thiophen-2-yl-bicyclo[2.2.2]oct-5-en-2-yl)-acetic acid | 100 mg | OC1(C2C=C(C(C1)CC2)C=2SC=CC2)CC(=O)O | C14H16O3S
reactant | DIPEA | 0.194 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | HOBt | 77 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | [3-(1H-benzoimidazol-2-yl)-propyl]-methyl-amine | 86 mg | N1C(=NC2=C1C=CC=C2)CCCNC | C11H15N3
solvent | THF | 0.15 mL | C1CCOC1 | C4H8O
solvent | DCM | 0.6 mL | C(Cl)Cl | CH2Cl2
solvent | EDC | 109 mg
product | rac-(1R*,2R*,4R*)-N-[3-(1H-benzoimidazol-2-yl)-propyl]-2-(2-hydroxy-5-thiophen-2-yl-bicyclo[2.2.2]oct-5-en-2-yl)-N-methyl-acetamide | 82 mg | N1C(=NC2=C1C=CC=C2)CCCN(C(CC2(C1C=C(C(C2)CC1)C=1SC=CC1)O)=O)C | C25H29N3O2S
